US08211908B2
To a solution of 0.69 g of 1-(2,2-dimethoxyethyl)-7-fluoro-6-methyl-1,5-naphthyridin-2(1H)-one in 6 mL of methyl ethyl ketone, 0.35 mL of concentrated hydrochloric acid was added, and the temperature was increased to 74° C., and the mixture was stirred for 2 hours 50 minutes. The reaction mixture was cooled to room temperature, and the solvent was distilled off under reduced pressure. To the resultant residue, ethyl acetate and a saturated aqueous sodium hydrogen carbonate solution were added, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate to obtain 0.52 g of (7-fluoro-6-methyl-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde as a light yellow solid.

reactant | 1-(2,2-dimethoxyethyl)-7-fluoro-6-methyl-1,5-naphthyridin-2(1H)-one | 0.69 g | COC(CN1C(C=CC2=NC(=C(C=C12)F)C)=O)OC | C13H15FN2O3
solvent | methyl ethyl ketone | 6 mL | C(C)C(=O)C | C4H8O
solvent | hydrochloric acid | 0.35 mL | Cl | ClH
product | (7-fluoro-6-methyl-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde | 0.52 g | FC1=C(N=C2C=CC(N(C2=C1)CC=O)=O)C | C11H9FN2O2
